US07884109B2
(R)—N2-(2-(2,4-Dimethoxybenzylamino)-4-fluorophenyl)-N4-(8-fluorochroman-4-yl)-5-nitropyrimidine-2,4-diamine.
A mixture of (R)-2-chloro-N-(8-fluorochroman-4-yl)-5-nitropyrimidin-4-amine (32 mg), N1-(2,4-dimethoxybenzyl)-5-fluorobenzene-1,2-diamine (28 mg) and KCO3 (41 mg) in ACN was heated at 65° C. for 3 hr, cooled to RT, diluted with brine and extracted with EtOAc (2×). The combined organics were evaporated, and purified by column chromatography (eluted with 30% EtOAc/Hex) to yield the titled product (21 mg). 1H-NMR (300 MHz, CDCl3) δ 9.0 (s, 1H), 8.6 (br d, 1H), 7.2-6.8 (m, 6H), 6.5-6.3 (m, 4H), 4.4-4.2 (m, 4H), 3.8 (s, 6H), 2.3-2.2 (m, 2H).

reactant | (R)-2-chloro-N-(8-fluorochroman-4-yl)-5-nitropyrimidin-4-amine | 32 mg | ClC1=NC=C(C(=N1)N[C@@H]1CCOC2=C(C=CC=C12)F)[N+](=O)[O-] | C13H10ClFN4O3
reactant | N1-(2,4-dimethoxybenzyl)-5-fluorobenzene-1,2-diamine | 28 mg | COC1=C(CNC=2C(=CC=C(C2)F)N)C=CC(=C1)OC | C15H17FN2O2
solvent | ACN | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
product | (R)—N2-(2-(2,4-Dimethoxybenzylamino)-4-fluorophenyl)-N4-(8-fluorochroman-4-yl)-5-nitropyrimidine-2,4-diamine | 21 mg | COC1=C(CNC2=C(C=CC(=C2)F)NC2=NC=C(C(=N2)N[C@@H]2CCOC3=C(C=CC=C23)F)[N+](=O)[O-])C=CC(=C1)OC | C28H26F2N6O5
